US08466282B2
N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-3-(phenoxymethyl)imidazo[1,2-a]pyridine-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-[(2-methylpropyl){[3-(phenoxymethyl)imidazo[1,2-a]pyridin-2-yl]carbonyl}amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (290 mg) was dissolved in 4M hydrogen chloride-ethyl acetate (5 ml), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated to give the object product (278 mg).

reactant | tert-Butyl (3S,5R)-3-[(2-methylpropyl){[3-(phenoxymethyl)imidazo[1,2-a]pyridin-2-yl]carbonyl}amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 290 mg | CC(CN([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C(=O)C=1N=C2N(C=CC=C2)C1COC1=CC=CC=C1)C | C34H45N5O6
reactant | hydrogen chloride-ethyl acetate | 4M, 5 ml | C(C)(=O)OCC.Cl
product | N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-3-(phenoxymethyl)imidazo[1,2-a]pyridine-2-carboxamide dihydrochloride | 278 mg | Cl.Cl.CC(CN(C(=O)C=1N=C2N(C=CC=C2)C1COC1=CC=CC=C1)[C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)C | InChI=1S/C29H37N5O4.2ClH/c1-21(2)19-34(23-16-22(17-30-18-23)28(35)32-12-14-37-15-13-32)29(36)27-25(20-38-24-8-4-3-5-9-24)33-11-7-6-10-26(33)31-27;;/h3-11,21-23,30H,12-20H2,1-2H3;2*1H/t22-,23+;;/m1../s1
